US06537948B1
A mixture of 0.17 g of 2-chloro-5-hydroxypyrimidine, 0.22 g of methyl 2-bromopropionate, 0.20 g of anhydrous potassium carbonate and 2.6 ml of N,N-dimethylformamide was stirred at 60° C. for 1 hour. The reaction solution was cooled to room temperature, then, poured into water, and extracted with t-butyl methyl ether. The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.17 g of 2-chloro-5-[1-(methoxycarbonyl)ethoxy]pyrimidine.

reactant | 2-chloro-5-hydroxypyrimidine | 0.17 g | ClC1=NC=C(C=N1)O | C4H3ClN2O
reactant | methyl 2-bromopropionate | 0.22 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | potassium carbonate | 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 2.6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-chloro-5-[1-(methoxycarbonyl)ethoxy]pyrimidine | 0.17 g | ClC1=NC=C(C=N1)OC(C)C(=O)OC | C8H9ClN2O3
